US05786488
Refer to 32(a) using 4-bromo-2-butenoic acid as the alkylating agent. Preparation of 2-(4-carboxy-n-butyl) indole: Refer to Example 3 using methyl adipyl chloride as the acid chloride. The methyl ester was hydrolyzed in the cyclization workup to provide the product carboxyindole. In the alternative, refer to Example 32b) using 2-(4-carboxy-3-buten-1-yl) indole as the starting material.

reactant | 4-bromo-2-butenoic acid | BrCC=CC(=O)O | C4H5BrO2
reactant | 2-(4-carboxy-n-butyl) indole | C(=O)(O)CCCCC=1NC2=CC=CC=C2C1 | C13H15NO2
reactant | methyl adipyl chloride | CC(C(=O)Cl)CCCC(=O)Cl | C7H10Cl2O2
product | carboxyindole | C(=O)(O)C=1NC2=CC=CC=C2C1 | C9H7NO2
